US06320059B1
Preparation of Methyl 2-(4-chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carboxylate
A solution of N-[1-chloro-(2,2,2-trifluoroethyl)]-4-chlorobenzimidoyl chloride (3.40 g, 0.012 mol) and methyl acrylate (1.26 g, 0.015 mol) in N,N-dimethylformamide (10 mL) is treated with 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU, 5.0 g, 0.033 mol) over 1 hour. The reaction mixture is then held at 600° C. for 15 minutes, quenched with dilute HCl, and extracted with ethyl acetate. The organic extract is concentrated in vacuo to obtain a residue. Flash chromatography of the residue on silica gel, packed and eluted with 20% ethyl acetate in heptane, and crystallization from heptane gives the title product as a yellow solid (0.95 g, 26.0% yield) which is identified by 1H and 19F NMR spectral analyses.

reactant | N-[1-chloro-(2,2,2-trifluoroethyl)]-4-chlorobenzimidoyl chloride | 0.012 mol, 3.40 g | ClC(C(F)(F)F)N=C(C1=CC=C(C=C1)Cl)Cl | C9H5Cl3F3N
reactant | methyl acrylate | 0.015 mol, 1.26 g | C(C=C)(=O)OC | C4H6O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.033 mol, 5.0 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | Methyl 2-(4-chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carboxylate | 0.95 g, 26.0% yield | ClC1=CC=C(C=C1)C=1NC(=CC1C(=O)OC)C(F)(F)F | C13H9ClF3NO2
